US06613766B1
c) 3-(5-Methylisoxazol-3-yl)-5-(1-methyl-1,2,3-triazol-4-ylmethyloxy)-1,2,3a,4,7-pentaaza-cyclopenta[a]naphthalene
Sodium hydride (42 mg of a 60% dispersion on oil, 1.1 mmol) was added to a stirred solution of 3-(5-methylisoxazol-3-yl)-1,2,3a,4,7-pentaazacyclopenta[a]naphthalen-5(4H)-one (200 mg, 0.75 mmol) in DMF (6 ml) at room temperature under nitrogen, and the mixture was heated at 60° C. for 0.5 h. The reaction mixture was allowed to cool to room temperature, treated with 4-chloromethyl-1-methyl-1,2,3-triazole (108 mg, 0.82 mmol) and heated at 60° C. for 1.5 h. On cooling to room, water was added. The mixture was extracted with ethyl acetate, the organics separated, dried (MgSO4), and evaporated in vacuo. The residue was recrystallised from methanol to afford the title product as a white solid (39 mg, 14%), 1H NMR (360 MHz, d6 DMSO) δ 2.60 (3H, s, Ar—CH3), 4.08 (3H, s, N—CH3), 5.73 (2H, s, OCH2), 7.21 (1H, d, J=0.8 Hz, Ar—H), 8.45 (2H, m, Ar—H), 9.15 (1H, d, J=5.3 Hz, Ar—H)), 9.41 (1H, s, Ar—H); MS (ES+) m/e 364 [MH]+.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-(5-methylisoxazol-3-yl)-1,2,3a,4,7-pentaazacyclopenta[a]naphthalen-5(4H)-one | 0.75 mmol, 200 mg | CC1=CC(=NO1)C1=NN=C2N1NC(C1=CN=CC=C21)=O | C12H8N6O2
reactant | 4-chloromethyl-1-methyl-1,2,3-triazole | 0.82 mmol, 108 mg | ClCC=1N=NN(C1)C | C4H6ClN3
reactant | water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 3-(5-Methylisoxazol-3-yl)-5-(1-methyl-1,2,3-triazol-4-ylmethyloxy)-1,2,3a,4,7-pentaaza-cyclopenta[a]naphthalene | 39 mg, 14% | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CN=CC=C21)OCC=2N=NN(C2)C | C16H13N9O2
